US04409018
3-Acetonylthio-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one
In 10 ml pyridine was dissolved 1.5 g of 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one, and 0.6 g of chloroacetone was added dropwise to the mixture with stirring with cooling at 5° to 10° C. over a period of 10 minutes. After cooling was continued at room temperature for 2 hours, water was added to the mixture for extraction with dichloromethane. The dichloromethane layer was separated out, washed with dilute hydrochloric acid and water, successively, and dried over anhydrous sodium sulfate. The dichloromethane was distilled off under reduced pressure, and the resulting crystals were washed with a mixed solvent of ether and hexane and dried, thereby producing 1.3 g (yield of 73%) of the subject compound. Recrystallization from ethanol yielded white crystals, m.p. 131°-132° C.

reactant | 2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 1.5 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13ClFNOS
reactant | chloroacetone | 0.6 g | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-Acetonylthio-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 1.3 g, yield of 73% | C(C(=O)C)SC1N(C(C=2CCCCC12)=O)C1=C(C=C(C=C1)Cl)F | C17H17ClFNO2S
